US04855324
3-decynoyl chloride
The 3-decynoic acid is converted to its corresponding acyl chloride by reaction with thionyl chloride.

reactant | 3-decynoic acid | C(CC#CCCCCCC)(=O)O | C10H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-decynoyl chloride | C(CC#CCCCCCC)(=O)Cl | C10H15ClO
